US07101883B2
A mixture of 4-chlorouracil (0.87 g, 6.0 mmol), 4-mercaptophenol(0.834 g, 6.6 mmol) and KOH (0.435 g, 6.6 mmol) in ethanol (36 ml) was heated to reflux for 24 h. The reaction was allowed to cool, was concentrated in vacuo, and acidified with 1 n HCl. The solids were collected, washed with water and dried to give 6-[(4-hydroxyphenyl)thio]-2,4(1H,3H)-pyrimidinedione (1.1 g, 80%) as a white solid.

reactant | 4-chlorouracil | 6.0 mmol, 0.87 g | C1=C(NC(=O)NC1=O)Cl | C4H3ClN2O2
reactant | 4-mercaptophenol | 6.6 mmol, 0.834 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | KOH | 6.6 mmol, 0.435 g | [OH-].[K+]
solvent | ethanol | 36 ml | C(C)O | C2H6O
product | 6-[(4-hydroxyphenyl)thio]-2,4(1H,3H)-pyrimidinedione | 1.1 g, 80% | OC1=CC=C(C=C1)SC1=CC(NC(N1)=O)=O | C10H8N2O3S
